US04916135
7-Chloro-N-[4-[4-methylpiperazin-1-yl]-2-butynyl]-N-(1H-pyrrol-1-yl)-4-quinolinamine
To a solution of 7-chloro-N-(2-propynyl)-N-(1H-pyrrol-1-yl)-4-quinolinamine (8.0 g) in 150 ml of 1,4-dioxane were added N-methylpiperazine (3.11 g), paraformaldehyde (4 g) and CuCl (0.2 g), and this mixture was heated to 80° C. and stirred for four hours. The mixture was cooled, diluted with ethyl acetate, washed with water and dried (sat NaCl, anhy. MgSO4).

reactant | 7-chloro-N-(2-propynyl)-N-(1H-pyrrol-1-yl)-4-quinolinamine | 8.0 g | ClC1=CC=C2C(=CC=NC2=C1)N(N1C=CC=C1)CC#C | C16H12ClN3
reactant | N-methylpiperazine | 3.11 g | CN1CCNCC1 | C5H12N2
reactant | paraformaldehyde | 4 g | C=O | CH2O
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuCl | 0.2 g | Cl[Cu]
product | 7-Chloro-N-[4-[4-methylpiperazin-1-yl]-2-butynyl]-N-(1H-pyrrol-1-yl)-4-quinolinamine | ClC1=CC=C2C(=CC=NC2=C1)N(N1C=CC=C1)CC#CCN1CCN(CC1)C | C22H24ClN5
